** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/latch_citizen#1.sch
**.subckt latch_citizen#1 RST PD CLK R S Q XQ
*.iopin RST
*.iopin PD
*.iopin CLK
*.iopin R
*.iopin S
*.iopin Q
*.iopin XQ
x1 net4 net1 INVERTER_Citizen
x2 net1 net2 INVERTER3_Citizen
x3 net2 net3 INVERTER9_Citizen
x4 net3 XQ INVERTER27_Citizen
x5 net8 net5 INVERTER_Citizen
x6 net5 net6 INVERTER3_Citizen
x7 net6 net7 INVERTER9_Citizen
x8 net7 Q INVERTER27_Citizen
x9 net10 PD CLK NAND2_Citizen
x10 net16 net12 net9 NOR2_Citizen
x11 net4 net17 net8 NAND2_Citizen
x12 net8 net4 net18 NAND2_Citizen
x13 net15 net14 net11 NAND2_Citizen
x14 net12 net13 S NAND2_Citizen
x15 net11 R net13 NAND2_Citizen
x20 net9 RST PD NAND2_Citizen
x16 net16 net18 INVERTER_Citizen
x18 net15 net17 INVERTER_Citizen
x21 net10 net13 INVERTER_Citizen
x22 net9 net14 INVERTER_Citizen
**** begin user architecture code

blabla




VVDD VDD 0 DC 3.3

VIN IN 0 pulse(0 3.3 100n 1n 1n 100n 200n)

*Cload Q 0 1p
*Cload XQ 0 1p


.control
tran 1n 1000n

meas TRAN Iavg AVG I(VVDD)

meas TRAN tplh TRIG CLK VAL=1.65 RISE=2 TARG Q VAL=1.65 RISE=1
meas TRAN tphl TRIG CLK VAL=1.65 RISE=3 TARG Q VAL=1.65 FALL=1

set file=sim.log
write buffer_citizen#1.raw

.endc

**** end user architecture code
**.ends

* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sch
.subckt INVERTER_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=1
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=1
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sch
.subckt INVERTER3_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=3
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=3
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sch
.subckt INVERTER9_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=9
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=9
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sch
.subckt INVERTER27_Citizen IN OUT
*.iopin IN
*.iopin OUT
M1 OUT IN GND GND nch w=1.2u l=0.4u as=0 ps=0 ad=0 pd=0 m=27
M2 OUT IN VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=27
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NAND2_Citizen.sym # of pins=3
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NAND2_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NAND2_Citizen.sch
.subckt NAND2_Citizen OUT IN1 IN2
*.iopin OUT
*.iopin IN1
*.iopin IN2
M5 net1 IN2 GND GND nch w=2.4u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M6 OUT IN1 net1 GND nch w=2.4u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M7 OUT IN2 VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M8 OUT IN1 VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NOR2_Citizen.sym # of pins=3
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NOR2_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/NOR2_Citizen.sch
.subckt NOR2_Citizen OUT IN1 IN2
*.iopin IN2
*.iopin IN1
*.iopin OUT
M5 net1 IN1 VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M6 OUT IN2 GND GND nch w=2.4u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
M7 OUT IN1 GND GND nch w=2.4u l=0.18u as=0 ps=0 ad=0 pd=0 m=1
M8 OUT IN2 net1 VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
