** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/neuCMOSNAND2_citizen#1.sch
**.subckt neuCMOSNAND2_citizen#1 OUT IN2 IN1
*.iopin OUT
*.iopin IN2
*.iopin IN1
x1 net4 net1 INVERTER_Citizen
x2 net1 net2 INVERTER3_Citizen
x3 net2 net3 INVERTER9_Citizen
x4 net3 OUT INVERTER27_Citizen
x5 net5 net4 INVERTER_Citizen
C1 net5 IN1 1p m=1
C2 net5 IN2 1p m=1
C3 net5 GND 1p m=1
**** begin user architecture code

blabla




VVDD VDD 0 DC 3.3

VIN1 IN1 0 pulse(0 3.3 100n 1n 1n 100n 200n)
VIN2 IN2 0 pulse(0 3.3 100n 1n 1n 100n 200n)

*Cload Q 0 1p
*Cload XQ 0 1p


.control
tran 1n 1000n

meas TRAN Iavg AVG I(VVDD)

meas TRAN tplh TRIG CLK VAL=1.65 RISE=2 TARG Q VAL=1.65 RISE=1
meas TRAN tphl TRIG CLK VAL=1.65 RISE=3 TARG Q VAL=1.65 FALL=1

set file=sim.log
write buffer_citizen#1.raw

.endc

**** end user architecture code
**.ends

* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER_Citizen.sch
.subckt INVERTER_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=1
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=1
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER3_Citizen.sch
.subckt INVERTER3_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=3
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=3
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER9_Citizen.sch
.subckt INVERTER9_Citizen IN OUT
*.iopin OUT
*.iopin IN
M1 OUT IN GND GND nch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=9
M2 OUT IN VDD VDD pch w=5u l=0.18u as=0 ps=0 ad=0 pd=0 m=9
.ends


* expanding   symbol:  work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sym # of pins=2
** sym_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sym
** sch_path: /home/tororo009/work/LR-hasegawa/LR_hasegawa/LR_Work2/Citizen035/INVERTER27_Citizen.sch
.subckt INVERTER27_Citizen IN OUT
*.iopin IN
*.iopin OUT
M1 OUT IN GND GND nch w=1.2u l=0.4u as=0 ps=0 ad=0 pd=0 m=27
M2 OUT IN VDD VDD pch w=3.6u l=0.4u as=0 ps=0 ad=0 pd=0 m=27
.ends

.GLOBAL GND
.GLOBAL VDD
.end
